US06303593B1
1-Allyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine.
The title compound was prepared from 1-allyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine and 4-(4-fluorophenyl)piperidine by according to procedures described in Example 241, Step 5 with the change that 1-Allyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine replaced 1-benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine. 1H NMR (CDCl3) is consistent with structure.

reactant | 1-allyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine | C(C=C)N1C[C@H]([C@@H](C1)C1=CSC=C1)C=O | C12H15NOS
reactant | 4-(4-fluorophenyl)piperidine | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | 1-benzyl-3-(S)-formyl-4-(R)-(3-thienyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CSC=C1)C=O | C16H17NOS
product | 1-Allyl-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(R)-(3-thienyl)pyrrolidine | C(C=C)N1C[C@H]([C@@H](C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C23H29FN2S
